US04757081
Synthesis of 1-(2-chlorophenyl)-3-ethyl-2,6-diphenyl-4(1H)-pyridinone
To 300 ml of toluene were added 10.3 g (0.040 mole) of N-(2-chlorophenyl)-1-phenylbutaneimine, 5.2 g (0.030 mole) of ethyl phenylpropiolate and 5.3 g (0.040 mole) of aluminum chloride. After heating the reaction mixture under reflux for 20 hours under a nitrogen atmosphere, the reaction mixture was poured into 500 ml of 2N sulfuric acid which had been ice-cooled, followed by extraction with chloroform. After washing the organic layer with 50 ml of a 10% aqueous solution of sodium hydroxide and then with water, it was dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate, the solvent was distilled off and the residue was purified by chromatography on a silica gel column (eluent: ethyl acetate) so that 2.0 g of 1-(2-chlorophenyl)-3-ethyl-2,6-diphenyl-4(1H)-pyridinone having a melting point of 165°-166° C. was obtained.

reactant | N-(2-chlorophenyl)-1-phenylbutaneimine | 0.040 mole, 10.3 g | ClC1=C(C=CC=C1)N=C(CCC)C1=CC=CC=C1 | C16H16ClN
reactant | ethyl phenylpropiolate | 0.030 mole, 5.2 g | C1(=CC=CC=C1)C#CC(=O)OCC | C11H10O2
reactant | aluminum chloride | 0.040 mole, 5.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sulfuric acid | 2N, 500 ml | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chlorophenyl)-3-ethyl-2,6-diphenyl-4(1H)-pyridinone | ClC1=C(C=CC=C1)N1C(=C(C(C=C1C1=CC=CC=C1)=O)CC)C1=CC=CC=C1 | C25H20ClNO
